US06734179B2
To a solution of 0.13 g (0.31 mMol) 2-chloromethyl-N-(7-cyclohexyl-4-methoxy-benzothiazol-2-yl)-isonicotinamide in 1 ml THF were added 0.1 ml (1.3 mMol) pyrrolidine. The reaction mixture was heated to 70° C. for 3 h. The solvent was evaporated to dryness, the residue taken up in dichloro methane and washed with water and brine. The organic phase was dried over sodium sulfate and evaporated to dryness in vacuo. The residue was subjected to column chromatography (dichloro methane/methanol 19:1->9:1) and subsequent crystallization from methanol/ethyl acetate/diethyl ether afforded 0.026 g (18%) of N-(7-cyclohexyl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-yl-methyl-isonicotinamide as a yellow solid. ES-MS m/e (%): 451 ([M+H]+, 100).

reactant | 2-chloromethyl-N-(7-cyclohexyl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | 0.31 mMol, 0.13 g | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCCCC3)OC)C=CN1 | C21H22ClN3O2S
reactant | pyrrolidine | 1.3 mMol, 0.1 ml | N1CCCC1 | C4H9N
reactant | THF | 1 ml | C1CCOC1 | C4H8O
product | N-(7-cyclohexyl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-yl-methyl-isonicotinamide | 0.026 g, 18% | C1(CCCCC1)C1=CC=C(C=2N=C(SC21)NC(C2=C(C(=NC=C2)N2CCCC2)C)=O)OC | C25H30N4O2S
